US05296482
STEP B: 7,8-dimethoxy-3-[3-iodopropyl]-1,3-dihydro-2H-3-benzazepin-2-one
A suspension of 12 g of 7,8-dimethoxy-3-[3-chloropropyl]-1,3-dihydro-2H-3-benzazepin-2-one obtained in accordance with the method described in the literature (Reiffer M. et al., J. Med. Chem. 1990; vol 33 (5): 1496-1504) and 6.2 g of sodium iodide in 50 cm3 of acetone are refluxed for 24 hours. After filtration and evaporation to dryness of the solvent, the residue is taken up in water and extracted with dichloromethane. The extract is separated off, dried over anhydrous magnesium sulphate and then concentrated in vacuo to yield 15.2 g of the desired compound.

reactant | 7,8-dimethoxy-3-[3-chloropropyl]-1,3-dihydro-2H-3-benzazepin-2-one | 12 g | COC1=CC2=C(CC(N(C=C2)CCCCl)=O)C=C1OC | C15H18ClNO3
reactant | sodium iodide | 6.2 g | [I-].[Na+]
solvent | acetone | 50 cm3 | CC(=O)C | C3H6O
product | 7,8-dimethoxy-3-[3-iodopropyl]-1,3-dihydro-2H-3-benzazepin-2-one | 15.2 g, Yield: 99% | COC1=CC2=C(CC(N(C=C2)CCCI)=O)C=C1OC | C15H18INO3
